US04515788
To a suspension of 2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (11.5 g) in tetrahydrofuran (80.5 ml) was added dropwise a solution of t-butyl nitrite (6.5 g) in tetrahydrofuran (32.5 ml) at 50° to 57° C. under stirring, and the mixture was stirred at 50° to 55° C. for 20 minutes. The reaction mixture was poured into a mixture of ethyl acetate and water and the solution was acidified to pH 1.0 with 10% hydrochloric acid. Water (60 ml) was added to the separated organic layer and the mixture was adjusted to pH 6.0 with 40% aqueous solution of potassium carbonate. The separated aqueous solution was washed with ethyl acetate and the solution was acidified to pH 2.8 with 10% hydrochloric acid. The acidified solution was extracted with ethyl acetate and the ethyl acetate layer was dried over magnesium sulfate and evaporated. The residue was triturated with diisopropyl ether to give 2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetic acid (syn isomer) (6.1 g), mp. 141° C. (dec.).

reactant | 2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetic acid | 11.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)N | C11H15N3O5S
reactant | t-butyl nitrite | 6.5 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 80.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32.5 ml | O1CCCC1 | C4H8O
solvent | Water | 60 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetic acid | 6.1 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C=1N=CSC1 | C11H14N2O5S
